US03988249
Antimony N-(2-octyl)-N-ethyldithiocarbamate
In a 3-liter, three-neck, round-bottom flask equipped with a stirrer, thermometer, dropping funnel and condenser was placed 157 g. (grams) (1.0 mole) of N-(2-octyl)-N-ethylamine, 49 g. (0.168 mole) of antimony trioxide and 1000 ml. (milliliters) of hexane. The stirred mixture was heated to reflux (68°C.) and 80 g. (1.05 moles) of carbon disulfide was added over a period of 1 hour. The mixture was stirred at reflux for an additional 3 hours, and then the water generated during the reaction was azeotroped off (9 ml.). The mixture was filtered hot in order to remove any unreacted antimony oxide. The hexane solution was cooled to room temperature and the hexane was then removed at reduced pressure. A viscous oil was isolated having an Index of refraction ND22 =1.627.

reactant | N-(2-octyl)-N-ethylamine | 1.0 mole | CC(CCCCCC)NCC | C10H23N
reactant | antimony trioxide | 0.168 mole | O=[Sb]O[Sb]=O
reactant | hexane | CCCCCC | C6H14
reactant | carbon disulfide | 1.05 moles | C(=S)=S | CS2
solvent | water | O | H2O
product | Antimony N-(2-octyl)-N-ethyldithiocarbamate | CC(CCCCCC)N(C([S-])=S)CC.[Sb+3].CC(CCCCCC)N(C([S-])=S)CC.CC(CCCCCC)N(C([S-])=S)CC | InChI=1S/3C11H23NS2.Sb/c3*1-4-6-7-8-9-10(3)12(5-2)11(13)14;/h3*10H,4-9H2,1-3H3,(H,13,14);/q;;;+3/p-3
